US08536215B2
To a stirred solution of O-methyl-N-[1-(2,2,4-trimethyl-cyclohex-3-enyl)-ethyl]-hydroxylamine (diastereomer A), prepared as described in example P7, (88 mg; 0.45 mmol) and triethylamine (75 μl; 0.54 mmol) in dichloromethane (2 ml) was added dropwise 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (87 mg; 0.45 mmol). The reaction mixture was stirred at 24° C. for 16 h under nitrogen atmosphere. The mixture was concentrated to an oil which was subject to flash-master column chromatography (elution gradient: cyclohexane/ethyl acetate 99:1 to 1:99) to afford 106 mg (66% of theory) of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[1-(2,2,4-trimethyl-cyclohex-3-enyl)-ethyl]-amide as an amorph solid.

reactant | O-methyl-N-[1-(2,2,4-trimethyl-cyclohex-3-enyl)-ethyl]-hydroxylamine | CONC(C)C1C(C=C(CC1)C)(C)C | C12H23NO
reactant | triethylamine | 0.54 mmol, 75 μl | C(C)N(CC)CC | C6H15N
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.45 mmol, 87 mg | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[1-(2,2,4-trimethyl-cyclohex-3-enyl)-ethyl]-amide | 106 mg, 66% | CON(C(=O)C=1C(=NN(C1)C)C(F)F)C(C)C1C(C=C(CC1)C)(C)C | C18H27F2N3O2
